US08247430B2
N-(2-((3-nitro-5-(trifluoromethyl)phenyl)oxy)ethyl)-methanesulfonamide
2-((3-Nitro-5-(trifluoromethyl)phenyl)oxy)ethylamine (4.05 g, 16.2 mmols, 1 eq) was dissolved in 100 mL of CH2Cl2. The solution was cooled to 0° C. Pyridine (2.6 mL, 32.4 mmols, 2 eq) was added followed by mesyl chloride (1.25 mL, 16.2 mmols, 1 eq). The reaction was stirred for 18 h during which time it was warmed slowly to RT. The solvent was removed in vacuo, and the residue dissolved in EtOAc. The resulting solution was washed twice with 2 N HCl, once with water, and 3× with brine. After being dried over Na2SO4 the solution was filtered and concentrated. The crude was purified by silica gel chromatography eluting with 50% to 60% EtOAc:hexane to yield the desired compound.

reactant | 2-((3-Nitro-5-(trifluoromethyl)phenyl)oxy)ethylamine | 16.2 mmols, 4.05 g, 1 eq | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)OCCN | C9H9F3N2O3
reactant | Pyridine | 32.4 mmols, 2.6 mL, 2 eq | N1=CC=CC=C1 | C5H5N
reactant | mesyl chloride | 16.2 mmols, 1.25 mL, 1 eq | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(2-((3-nitro-5-(trifluoromethyl)phenyl)oxy)ethyl)-methanesulfonamide | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)OCCNS(=O)(=O)C | C10H11F3N2O5S
